US03933829
7-Bromo-4-chloroquinoline and p-aminobenzenesulphonic acid are reacted in a similar manner to that described in Example 14(a) to give 4-(7-bromo-4-quinolylamino)-benzenesulphonic acid.

reactant | 7-Bromo-4-chloroquinoline | BrC1=CC=C2C(=CC=NC2=C1)Cl | C9H5BrClN
reactant | p-aminobenzenesulphonic acid | NC1=CC=C(C=C1)S(=O)(=O)O | C6H7NO3S
product | 4-(7-bromo-4-quinolylamino)-benzenesulphonic acid | BrC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)O | C15H11BrN2O3S
